US04080329
2-Aminopyridine-1-Oxide Hydrochloride
2-Aminopyridine (11.8 g.) was dissolved in 25 ml dichloroethane and the resulting clear solution chilled to 10°-15° C. Commercial 40% peracetic acid (20 g.) was slowly added over a 30-minute period with ice-cooling and stirring; the temperature was kept between 15°-20° C. After 1/2 hour stirring at 20°-30° C with very little cooling, the clear solution was allowed to react 15 hours at room temperature. Then was added 0.5 g. charcoal and the mixture kept at 70° C for 1 hour. The solution was filtered and the filtrate diluted with 100 ml dichloroethane. The clear solution was extracted twice with 30 ml of 20% hydrochloric acid. The acid extracts were washed with 30 ml dichloroethane and then evaporated under vacuum in a rotary evaporator to dryness to give 19.7 g. yellow crystals. Recrystallization from 1:1 ethanoltoluene mixture gave 13.7 g. nearly colorless crystals with m.p. 148° -152° C.

reactant | 2-Aminopyridine | 11.8 g | NC1=NC=CC=C1 | C5H6N2
reactant | peracetic acid | 20 g | C(C)(=O)OO | C2H4O3
reactant | charcoal | C | CH4
reactant | dichloroethane | 25 ml | ClC(C)Cl | C2H4Cl2
product | 2-Aminopyridine-1-Oxide Hydrochloride | Cl.NC1=[N+](C=CC=C1)[O-] | InChI=1S/C5H6N2O.ClH/c6-5-3-1-2-4-7(5)8;/h1-4H,6H2;1H
